US05998624
1-(4-iodophenyl)-N-methyl-3-isoquinoline carboxamide (8c)
A mixture of 1-(4-iodophenyl)-3-isoquinolinecarboxylic acid (0.2073 g, 0.55 mmol), BOP (0.2447 g, 0.55 mmol), Methylamine hydrochloride (0.096 g, 1.42 mmol), and Et3N (0.25 mL, 1.80 mmol) in DMF (8 mL) was stirred under Ar at room temperature. After stirring for 1 h , additional Et3N (0.2 ml,) was added in one portion. The mixture was stirred under Ar for 7 h, then quenched by adding H2O (8 mL). The resulting mixture was extracted with CH2Cl2 (3×20 mL). The combined organic layers were dried (Na2SO4), then filtered. The filtrate was concentrated in vacuo. The residue was purified on column chromatography (SiO2, 35% ethyl acetate in hexane, 0.1% Et3N), thereby affording the title compound as a white solid (0.1724, 81%). mp 163-164 ° C. 1H NMR (CDCl3) d 3.07, 3.09 (two s, total 3 H, N-methyl), 7.46 (d, J=8.4 Hz, 2 H, aromatic), 7.64 (t, J=7.2 Hz, 1 H, aromatic), 7.77 (t, J=6.9 Hz, 1 H, aromatic), 7.92 (d, J=8.4 Hz, 2 H, aromatic), 8.07 (t, J=7.8 Hz, 2 H, aromatic), 8.24 (br s, 1 H, NH), 8.02 (s, 1 H, aromatic). 13C NMR (CDC13) d 26.05 (q,N-methyl), 95.14 (s, C--I), 119.54 (d, aromatic), 127.02 (d, aromatic), 128.58 (d, aromatic), 128.75 (di aromatic), 130.60 (d, aromatic), 131.43 (d, aromatic), 131.56 (aromatic), 137.02 (s, aromatic), 137.40 (d, aromatic), 138.28 (s, aromatic), 142.58 (s, aromatic), 158.09 (s, aromatic), 165.12 (s, CO). HRMS calcd. for C17H13IN2O: 388.0073. Found: 388.0077.

reactant | 1-(4-iodophenyl)-3-isoquinolinecarboxylic acid | 0.55 mmol, 0.2073 g | IC1=CC=C(C=C1)C1=NC(=CC2=CC=CC=C12)C(=O)O | C16H10INO2
reactant | BOP | 0.55 mmol, 0.2447 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | Methylamine hydrochloride | 1.42 mmol, 0.096 g | Cl.CN
reactant | Et3N | 1.80 mmol, 0.25 mL | CCN(CC)CC | C6H15N
reactant | Et3N | 0.2 ml | CCN(CC)CC | C6H15N
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 1-(4-iodophenyl)-N-methyl-3-isoquinoline carboxamide | 81% | IC1=CC=C(C=C1)C1=NC(=CC2=CC=CC=C12)C(=O)NC | C17H13IN2O
